US08802659B2
7-(trans 4-tert-butylcyclohexyloxy)-3-methylisoquinoline
Triphenylphosphine (5.14 g, 19.6 mmol) was added to a solution of 3-Methyl-isoquinolin-7-ol (2.08 g, 13.1 mmol) and cis-4-tert-butylcyclohexanol (3.06 g, 19.6 mmol) in Toluene (60 mL, 600 mmol). The mixture was stirred for 15 minutes then Diisopropyl azodicarboxylate (3.86 mL, 19.6 mmol) was added. The mixture was then stirred at room temperature overnight. The solvent was removed under vacuum. The crude product was dissolved in methylene chloride, adsorbed onto silica gel and purified by flash chromatography (0-30% EtOAc in hexanes) to give the title compound in 52% yield. ESI-MS (M+H+): 298.46.

reactant | Triphenylphosphine | 19.6 mmol, 5.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-Methyl-isoquinolin-7-ol | 13.1 mmol, 2.08 g | CC=1N=CC2=CC(=CC=C2C1)O | C10H9NO
reactant | cis-4-tert-butylcyclohexanol | 19.6 mmol, 3.06 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)O | C10H20O
reactant | Toluene | 600 mmol, 60 mL | C1(=CC=CC=C1)C | C7H8
reactant | Diisopropyl azodicarboxylate | 19.6 mmol, 3.86 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 7-(trans 4-tert-butylcyclohexyloxy)-3-methylisoquinoline | 52% yield | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=CC=C2C=C(N=CC2=C1)C | C20H27NO
